US05814651
2-[3-(Cyclopentyloxy)-4-methoxyphenyl]-5-fluorobenzothiazole
A mixture of (440 mg, 2 mmoles) 4-methoxy-3-cyclopentyloxy benzaldehyde and (400 mg, 2.1 mmoles) 2-mercapto-5-fluoroaniline hydrochloride was heated on a steam bath for 15 minutes. The resulting thick orange oil was cooled and dissolved in 5 ml of 10% FeCl3 in methanol and allowed to stir overnight. The reaction was diluted with water and extracted with CH2Cl2. The CH2Cl2 layer was dried and evaporated to give 760 mg of crude product which was purified on silica gel with CH2 Cl2 to give 500 mg of product. Recrystallization from isopropanol gave 140 mg of product. M.P.: 96°-97° C. Elemental Analysis Calc'd for C19H18O2NSF : Calc'd: C, 66.45; H, 5.28; N, 4.08. Found: C, 66.44; H. 5.13; N. 4.06.

reactant | 4-methoxy-3-cyclopentyloxy benzaldehyde | 2 mmoles, 440 mg | COC1=C(C=C(C=O)C=C1)OC1CCCC1 | C13H16O3
reactant | 2-mercapto-5-fluoroaniline hydrochloride | 2.1 mmoles, 400 mg | Cl.SC1=C(N)C=C(C=C1)F
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-[3-(Cyclopentyloxy)-4-methoxyphenyl]-5-fluorobenzothiazole | 500 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C=1SC2=C(N1)C=C(C=C2)F | C19H18FNO2S
